### PR TITLE
chore: adapt to lean4#2738

### PR DESCRIPTION
**Pull request by thorimur**
leanprover/lean4#2738 causes `rw [foo]` to look for `foo` in the local context instead of the environment. However, some proofs relied on the opposite behavior; many were of the form
```lean
theorem foo : ... := by
  ...
  rw [foo] -- actually refers to a different `foo` already in the environment
```
We fix this simply by namespacing the constant:
```lean
theorem foo : ... := by
  ...
  rw [Bar.foo] -- actually refers to a different `foo` already in the environment
```
This has the nice side effect of making the code more readable by clarifying which `foo` we're referring to.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Complex/Module.lean [hunk 1]
```diff
@@ -481,7 +481,7 @@ lemma IsSelfAdjoint.coe_realPart {x : A} (hx : IsSelfAdjoint x) :
 
 lemma IsSelfAdjoint.imaginaryPart {x : A} (hx : IsSelfAdjoint x) :
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Module.lean:482]: I'd slightly prefer:
```suggestion
nonrec lemma IsSelfAdjoint.imaginaryPart {x : A} (hx : IsSelfAdjoint x) :
```

Comment (thorimur) [reply Mathlib/Data/Complex/Module.lean]: Changed in 7d72e32 . :)

**Comment by semorrison** [comment]
This was rolled into #8051.
